US07956050B2
To a solution of diisopropylamine (15.5 mL, 110 mmol) in THF (100 mL) at 0° C. was added n-butyllithium (40 mL of 2.5M in hexanes, 100 mmol). The resultant reaction solution was stirred at 0° C. for 30 minutes and then cooled to −40° C., before it was cannulated to a solution of 5-bromobenzothiophene (10.5 g, 50.0 mmol) and chlorotrimethylsilane (12.7 mL, 100 mmol) in THF (150 mL) at −78° C. The reaction solution was stirred at −78° C. for 1 hour, and then it was quenched with aqueous ammonium chloride at −78° C. and warmed to room temperature. The resultant mixture was extracted with ethyl acetate and the organic extract obtained was washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue obtained was purified by flash column chromatography (hexanes to 98:2 hexanes/ethyl acetate) to give the desired 5-bromo-2-trimethylsilylbenzothiophene (14.1 g, 98%) as a clear colorless oil: 1H NMR (500 MHz, CDCl3) δ 7.93 (d, J=2.0 Hz, 1H), 7.72 (d, J=8.5 Hz, 1H), 7.39 (dd, J=8.5, 2.0 Hz, 1H), 7.37 (s, 1H), 0.38 (s, 9H).

reactant | diisopropylamine | 110 mmol, 15.5 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 100 mmol, 2.5M, 40 mL | C(CCC)[Li]
reactant | 5-bromobenzothiophene | 50.0 mmol, 10.5 g | BrC=1C=CC2=C(C=CS2)C1 | C8H5BrS
reactant | chlorotrimethylsilane | 100 mmol, 12.7 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 5-bromo-2-trimethylsilylbenzothiophene | 14.1 g, 98% | BrC=1C=CC2=C(C=C(S2)[Si](C)(C)C)C1 | C11H13BrSSi
